US06664260B2
Under a nitrogen atmosphere, triflic acid (29.0 g) was added dropwise to a solution of 1-[2-(benzyloxy)ethyl]-4-phenoxy-1H-imidazo[4,5-c]quinoline (7.65 g) in anhydrous dichloromethane (200 mL). When analysis by TLC (5% methanol in dichloromethane) indicated that the reaction was complete, the reaction mixture was concentrated under reduced pressure to provide an oil. This material was dissolved in ethyl acetate and then combined with triethylamine (10 eq.). The solution was diluted with additional ethyl acetate, washed with water, washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to provide ˜4.8 g of 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol as a white fluffy solid.

reactant | triflic acid | 29.0 g | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | 1-[2-(benzyloxy)ethyl]-4-phenoxy-1H-imidazo[4,5-c]quinoline | 7.65 g | C(C1=CC=CC=C1)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)OC2=CC=CC=C2 | C25H21N3O2
reactant | methanol | CO | CH4O
reactant | triethylamine | 10 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | ˜4.8 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCO | C18H15N3O2
